US06562807B2
To an ice cooled solution of methanol (250 mL) was added acetyl chloride (12.5 mL), and the solution was stirred for 1 hour at 0° C. (R)-Malic acid (20.0 g) was added, and the solution was stirred for 16 hours at room temperature. Solvent was removed by evaporation in vacuo leaving a quantitative yield of (R)-2-hydroxysuccinic acid dimethyl ester as an oil.

reactant | acetyl chloride | 12.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | (R)-Malic acid | 20.0 g | C([C@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | methanol | 250 mL | CO | CH4O
product | (R)-2-hydroxysuccinic acid dimethyl ester | quantitative yield | COC([C@@H](CC(=O)OC)O)=O | C6H10O5
